US05439928
a) 1-benzyl-5-(4-hydroxy-4,4-diphenylbutyl)-1H-imidazole
Magnesium turnings (0,49 g) are covered with 4 ml of dry tetrahydrofuran. Brombenzene (3,18 g) in 7 ml of dry tetrahydrofuran is added dropwise to the mixture at such a rate that a smooth reaction is maintained. The reaction mixture is refluxed for an additional hour. Ethyl 4-(1-benzyl-1H-imidazol-5-yl)butyrate (1,10 g) in 15 ml of dry tetrahydrofuran is then added dropwise to the Grignard reagent and the reaction mixture is refluxed for 2 hours. Saturated ammonium chloride is added to the cooled reaction mixture. Tetrahydrofuran is evaporated and the precipitated product is collected. Yield 1,41 g. Melting point of the hydrochloride salt is 197°-201° C.

reactant | Magnesium | 0,49 g | [Mg] | Mg
reactant | Brombenzene | 3,18 g | BrC1=CC=CC=C1 | C6H5Br
reactant | Ethyl 4-(1-benzyl-1H-imidazol-5-yl)butyrate | 1,10 g | C(C1=CC=CC=C1)N1C=NC=C1CCCC(=O)OCC | C16H20N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-(4-hydroxy-4,4-diphenylbutyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CCCC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C26H26N2O
